US07538121B2
N-(4,4-Dimethyl-1,2,3,4-tetrahydroquinolin-7-yl)-4-(3-methyl-2-pyridyl)-piperazine-1-carboxamide
A suspension of N-(4,4-dimethyl-1-trifluoroacetyl-1,2,3,4-tetrahydroquinol -7-yl)-4-(3-methyl-2-pyridyl)-piperazine-1-carboxamide (100 mg, 0.210 mmol) and potassium carbonate (87 mg, 0.631 mmol) in methanol (5 ml) and water (5 ml) was heated at 60° C. for 3 h. After this period, the solvents were evaporated in vacuo and the residue partitioned between DCM (15 ml) and water (10 ml). The aqueous layer was re-extracted with DCM (2×15 ml) and then the combined organic layers dried (Na2SO4) and the solvents evaporated in vacuo to give the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 8.16 (dd, 1H), 7.43 (dd, 1H), 7.05 (d, 1H), 6.88 (dd, 1H), 6.75 (d, 1H), 6.44 (dd, 1H), 6.29 (br, 1H), 3.85-3.95 (br, 1H), 3.55-3.65 (m, 4H), 3.25-3.30 (m, 2H), 3.15-3.25 (m, 4H), 2.29 (s, 3H), 1.65-1.70 (m, 2H), 1.26 (s, 6H). MS (ES): MH+ 380.

reactant | N-(4,4-dimethyl-1-trifluoroacetyl-1,2,3,4-tetrahydroquinol -7-yl)-4-(3-methyl-2-pyridyl)-piperazine-1-carboxamide | 0.210 mmol, 100 mg | CC1(CCN(C2=CC(=CC=C12)NC(=O)N1CCN(CC1)C1=NC=CC=C1C)C(C(F)(F)F)=O)C | C24H28F3N5O2
reactant | potassium carbonate | 0.631 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | N-(4,4-Dimethyl-1,2,3,4-tetrahydroquinolin-7-yl)-4-(3-methyl-2-pyridyl)-piperazine-1-carboxamide | CC1(CCNC2=CC(=CC=C12)NC(=O)N1CCN(CC1)C1=NC=CC=C1C)C | C22H29N5O
